US06090753
First, 50 g (0.61 mol) of sodium acetate and 41 g (0.14 mol) of 1,1-dibromo-3,3,3-trifluoroacetone were mixed with 500 ml of water, and the mixture was stirred at 80° C. for 30 minutes and then cooled to 0° C. Then, 45 g (0.14 mol) of 4-bromo-2-fluoro-5-isopropoxyphenylhydrazine hydrochloride was added at 10° C. or lower, and the mixture was stirred at 10° C. or lower for 3 hours. The precipitated crystals were collected by filtration and dried, which afforded 35 g (94.3 mmol) of 3,3,3-trifluoro-2-oxopropanal 1-(4-bromo-2-fluoro-5-isopropoxyphenylhydrazone).

reactant | sodium acetate | 0.61 mol, 50 g | C(C)(=O)[O-].[Na+]
reactant | 1,1-dibromo-3,3,3-trifluoroacetone | 0.14 mol, 41 g | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | 4-bromo-2-fluoro-5-isopropoxyphenylhydrazine hydrochloride | 0.14 mol, 45 g | Cl.BrC1=CC(=C(C=C1OC(C)C)NN)F
solvent | water | 500 ml | O | H2O
product | 3,3,3-trifluoro-2-oxopropanal 1-(4-bromo-2-fluoro-5-isopropoxyphenylhydrazone) | 94.3 mmol, 35 g | BrC1=CC(=C(C=C1OC(C)C)NN=CC(C(F)(F)F)=O)F | C12H11BrF4N2O2
